US09120771B2
Synthesis of tertiary butyl 3-((cyclopentyloxy)(3,4-dichlorophenyl)methyl)azetidine-1-carboxylate
Tertiary butyl 3-(1-(3,4-dichlorophenyl)-2-(methylsulfonyl)ethyl)azetidine-1-carboxylate (0.2 g, 0.49 mmol) and cyclopentanol (3.0 mL, 2.4 mmol) were stirred at 80° C. for one day. The reaction mixture was dissolved in methylene chloride (70 mL), and the organic layer was washed with saturated sodium carbonate (Na2CO3) and distilled water once, respectively, and dried over anhydrous magnesium sulfate to remove the solvent. Finally, a colorless liquid was obtained, and purified by flash chromatography (n-hexane:ethyl acetate (2:1, v/v)). The product was identified as a single compound by TLC (n-hexane:ethyl acetate (2:1, v/v)).

reactant | Tertiary butyl 3-(1-(3,4-dichlorophenyl)-2-(methylsulfonyl)ethyl)azetidine-1-carboxylate | 0.49 mmol, 0.2 g | ClC=1C=C(C=CC1Cl)C(CS(=O)(=O)C)C1CN(C1)C(=O)OC(C)(C)C | C17H23Cl2NO4S
reactant | cyclopentanol | 2.4 mmol, 3.0 mL | C1(CCCC1)O | C5H10O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | tertiary butyl 3-((cyclopentyloxy)(3,4-dichlorophenyl)methyl)azetidine-1-carboxylate | C1(CCCC1)OC(C1CN(C1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl | C20H27Cl2NO3
